US08138333B2
tert-Butyl 3-oxo-1-(phenylsulfonyl)-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate
Tert-Butyl 3-oxo-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate, Intermediate 17 (50 mg, 0.17 mmol), tetrabutylammonium hydrogensulfate (8 mg, 0.01 mmol) and benzenesulfonyl chloride (25 μl, 0.19 mmol) were dissolved in DCM (2 ml). 2.5 M NaOH (77 μl) was added. The mixture was stirred for 1 h at room temperature. The DCM phase was collected and washed with NaHCO3(sat.) and water. Evaporation gave a residue that was purified on silica 8-66% EtOAc in petroleum ether 45-60°. Obtained 42.4 mg of the title compound as a clear glass. MS (ESI+) m/z 371 [M+H-isobutene]+.

reactant | Tert-Butyl 3-oxo-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | O=C1CN(CC=2C=3C1=CNC3C=CC2)C(=O)OC(C)(C)C | C16H18N2O3
reactant | benzenesulfonyl chloride | 0.19 mmol, 25 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaOH | 2.5 M, 77 μl | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogensulfate | 0.01 mmol, 8 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-oxo-1-(phenylsulfonyl)-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | 42.4 mg | O=C1CN(CC=2C=3C1=CN(C3C=CC2)S(=O)(=O)C2=CC=CC=C2)C(=O)OC(C)(C)C | C22H22N2O5S
